US06362177B1
A solution of methanesulfonyl chloride (4.2 mg, 0.037 mmol) in CHCl3 (1.0 mL) and (piperidinomethyl)polystyrene (54 mg, 2.7 mmol base/g resin) were added to a solution of 4-(benzyl)benzyl alcohol (8.7 mg, 0.044 mmol) in CHCl3 (1.0 mL). The reaction mixture was stirred at 25° C. for 15 h. A solution of 4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (15.1 mg, 0.044 mmol) in CH3CN (1.0 mL) and KI (2 mg) were added to the reaction mixture and the mixture was stirred at 65° C. for 5 h. Phenyl isocyanate (5.2 mg) was added to the cooled reaction mixture and the mixture was stirred at 25° C. for 1 h. The reaction mixture was loaded onto Varian™ SCX column and washed with CH3OH (20 mL). Product was eluted off using 2 N NH3 in CH3OH (6 mL) and concentrated to afford 1-(4-benzylbenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (compound No. 926) as a pale yellow oil (5.6 mg, 29): The purity was determined by RPLC/MS (94%); ESI/MS m/e 524.1 (M++H, C30H32F3N3O2).

reactant | methanesulfonyl chloride | 0.037 mmol, 4.2 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (piperidinomethyl)polystyrene | 2.7 mmol, 54 mg | C1CCNCC1 | C5H11N
reactant | 4-(benzyl)benzyl alcohol | 0.044 mmol, 8.7 mg | C(C1=CC=CC=C1)C1=CC=C(CO)C=C1 | C14H14O
reactant | 4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | 0.044 mmol, 15.1 mg | FC(C=1C=C(C(=O)NCC(=O)NCC2CCNCC2)C=CC1)(F)F | C16H20F3N3O2
reactant | Phenyl isocyanate | 5.2 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | CHCl3 | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH3CN | 1.0 mL | CC#N | C2H3N
product | 1-(4-benzylbenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | C(C1=CC=CC=C1)C1=CC=C(CN2CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=C1 | C30H32F3N3O2
